US05491233
In a dry sealable Schlenk flask under an argon atmosphere 0.0364 g (0.061 mmol) (S,S)-ethylene-1,2-bisη5 -4,5,6,7-tetrahydro-1-indenyl)titanium (S)-1,1'-binaphth-2,2'-diolate was dissolved in THF (10 mL). The vessel was degassed by exposure to vacuum (2×~10 sec), put under an atmosphere of hydrogen and subsequently cooled to 0° C. in an ice water bath. After equilibration, a solution of n-butyllithium (0.075 mL, 1.58 M in hexanes, 0.118 mmol, 1.94 equiv) was added and the mixture was allowed to stir for 10 min. Phenylsilane (0.017 mL, 0.133 mmol, 2.4 equiv) and 0.189 g (1.17 mmol, 19.2 equiv) E-2-(4-methoxyphenyl)-2-butene were then added. The flask was sealed and the solution moved into a dry box and transferred to a Parr® high pressure reaction vessel containing a magnetic stir bar. The pressure vessel was sealed and moved to a fume hood where it was charged to 2100 psig with hydrogen and placed in an oil bath at 69° C. The reaction mixture was allowed to stir for 65 h. The vessel was cooled to room temperature, vented and opened to air. The reaction mixture was worked up by partitioning between diethyl ether/hexane (1/4) and water and separating the layers. The organic extract was distilled at reduced pressure to yield 0.133g (0.811 mmol, 69%) of 2-(4-methoxyphenyl)propane with an ee of 96.2%.

reactant | n-butyllithium | 0.118 mmol, 1.58 M, 0.075 mL, 1.94 equiv | C(CCC)[Li]
reactant | Phenylsilane | 0.133 mmol, 0.017 mL, 2.4 equiv | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | E-2-(4-methoxyphenyl)-2-butene | 1.17 mmol, 0.189 g, 19.2 equiv | COC1=CC=C(C=C1)\C(\C)=C\C | C11H14O
reactant | hydrogen | [H][H] | H2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxyphenyl)propane | 0.811 mmol, 0.133g, 69% | COC1=CC=C(C=C1)C(C)C | C10H14O
